Simulation of digital counter circuit synthesized with Yosys

** opencircuitdesign pdks install
.lib "models/sky130.lib.spice" tt
.include cells/mux2i/sky130_fd_sc_hs__mux2i_1.spice
.include cells/dfxtp/sky130_fd_sc_hs__dfxtp_1.spice
.include cells/nor2b/sky130_fd_sc_hs__nor2b_1.spice
.include cells/and3/sky130_fd_sc_hs__and3_1.spice
.include cells/and4/sky130_fd_sc_hs__and4_1.spice
.include cells/and2/sky130_fd_sc_hs__and2_1.spice
.include cells/a21oi/sky130_fd_sc_hs__a21oi_1.spice
.include cells/nor3/sky130_fd_sc_hs__nor3_1.spice
.include cells/o21bai/sky130_fd_sc_hs__o21bai_1.spice
.include cells/nor2/sky130_fd_sc_hs__nor2_1.spice
.include cells/o21a/sky130_fd_sc_hs__o21a_1.spice
.include cells/dfxtp/sky130_fd_sc_hs__dfxtp_1.spice
.include counter_synth.spice
.include register_array_synth.spice
.include edge_detector_synth.spice

* Instantiate counter module
XCOUNTER clk reset count.0 count.1 count.2 count.3 count.4 count.5 count.6 count.7 vss vss vdd vdd counter

* Instantiate edge detector module (detects rising edges of comparator signals)
XEDGE_DETECTOR clk reset comp.0 enable vss vss vdd vdd edge_detector

* Instantiate registers module (stores values based on edge detector output)
XREGISTER_ARRAY clk reset enable count.0 count.1 count.2 count.3 count.4 count.5 count.6 count.7 stored_values.0 stored_values.1 stored_values.2 stored_values.3 stored_values.4 stored_values.5 stored_values.6 stored_values.7 vss vss vdd vdd register_array

* Voltage sources
.param vdd=1.8
Vdd vdd 0 {vdd}

.param vss=0
Vss vss 0 {vss}

** Clock and Reset signals (1MHz clock)
Vrst    reset   0   pulse   {vdd}   {vss}   2u      2n  2n  490u    500u
Vclk    clk     0   pulse   {vss}   {vdd}   200n    1n  1n  0.5u      1u

* Comparator signal (example: 5 comparators with random outputs)
* Here, we simulate random '1's and '0's for comparators, adjust as needed
Vcomp0 comp.0 0 pulse {vss} {vdd} 32u 5n 5n 224u 256u

** Simulation settings
*.control
*.option KLU
*.option skywaterpdk
*.tran 1n 258u130
*.save i(Vvdd)
*
*.plot v(clk) 2+v(reset) 4+v(comp.0)
*.plot v(count.0) 2+v(count.1) 4+v(count.2) 6+v(count.3) 8+v(count.4) 10+v(count.5) 12+v(count.6) 14+v(count.7)
*.plot v(stored_values.0) 2+v(stored_values.1) 4+v(stored_values.2) 6+v(stored_values.3) 8+v(stored_values.4) 10+v(stored_values.5) 12+v(stored_values.6) 14+v(stored_values.7)
*.endc
.option method=Gear

.control
set color0=white

let tdelta = 1u
let dstart = 0
let dstop  = 256
let num_sim= 256

let tstart = dstart*tdelta
let tstop  = dstop*tdelta
let ddelta = (dstop-dstart)/num_sim
let dact   = dstart
let tact   = dstart*tdelta
let trem   = tstart-tact
let digit  = 0

set ext = "v.txt"
set dlm = "_"

set wr_singlescale
set wr_vecnames

while dact < dstop
    echo
    echo Running Sweep $&digit/$&num_sim
    echo
    alter @Vcomp0[pulse] [ 0 1.8 $&tact 5n 5n $&trem 256u ]
    ;run
    tran 1u 512u uic

    let cut-tstart = 256u
    let cut-tstop = 512u
    cutout

    ; plot I(vdd)
    wrdata outfiles/sky_raw_d$&digit$ext -I(vdd) ;digitized

    let lin-tstart = 256u
    let lin-tstop  = 512u
    let lin-tstep  = 100n
    linearize I(vdd) ; digitized

    ; plot I(vdd)
    wrdata outfiles/sky_lin_d$&digit$ext -I(vdd) ;digitized

    let dact = dact + ddelta
    let tact = dact * tdelta
    let trem = tstop - tact
    let digit = dact / ddelta

    destroy all
end
*exit
.endc

.END
